US07335658B2
6-[4-(2-METHYLCYCLOPROPANECARBONYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
Following the procedure of Example 15, making variations only as required to use 6-chloropyridazine-3-carboxylic acid (2-cyclopropylethyl)amide in place of 6-chloropyridazine-3-carboxylic acid (2-cyclopropyl-2-hydroxyethyl)amide to react with piperazin-1-yl-(2-methylcyclopropyl)methanone, the title compound was obtained as a white solid (88% yield). 13C NMR (75 MHz, CDCl3) δ 177.1, 163.5, 159.5, 144.9, 131.3, 126.4, 115.1, 49.7, 45.2, 39.5, 37.5, 37.2, 35.3, 34.6, 29.9, 28.5, 26.5, 23.4, 8.6, 4.2. MS (ES+) m/z 360 (M+3).

reactant | 6-chloropyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)Cl | C10H12ClN3O
reactant | piperazin-1-yl-(2-methylcyclopropyl)methanone | N1(CCNCC1)C(=O)C1C(C1)C | C9H16N2O
product | 6-[4-(2-METHYLCYCLOPROPANECARBONYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(=O)C1C(C1)C | C19H27N5O2
